US09169254B2
Acetic acid chlorocarbonylmethyl ester (1.73 ml) was added to a solution of 4-bromo-3-methyl-phenylamine (2.0 g, 10.7 mmol) and pyridine (5.21 ml) in dichloromethane (20 ml), and the mixture was stirred at 40° C. for 2.5 hours. The mixture was cooled, and then quenched with water and extracted with dichloromethane. The organic layer was sequentially washed with water and saturated brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure to give acetic acid (4-bromo-3-methyl-phenylcarbamoyl)-methyl ester (3.19 g).

reactant | Acetic acid chlorocarbonylmethyl ester | 1.73 ml | ClC(=O)COC(C)=O | C4H5ClO3
reactant | 4-bromo-3-methyl-phenylamine | 10.7 mmol, 2.0 g | BrC1=C(C=C(C=C1)N)C | C7H8BrN
reactant | pyridine | 5.21 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | acetic acid (4-bromo-3-methyl-phenylcarbamoyl)-methyl ester | 3.19 g | BrC1=C(C=C(C=C1)NC(=O)COC(C)=O)C | C11H12BrNO3
